US07223769B2
In 1.5 ml of tetrahydrofuran was suspended 0.04 g of sodium hydride (60% in oil), to which 0.5 ml of a solution containing 0.07 g of 2-butyn-1-ol was added dropwise at room temperature, followed by stirring for 10 minutes. To this was added dropwise 0.5 ml of a solution containing 0.18 g of 4-chloro-6-(2,2-dichloropropyloxy)pyrimidine in tetrahydrofuran, followed by stirring for 2 hours. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution, which was extracted three times with t-butyl methyl ether. The combined organic layers were washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.08 g of 4-(2-butynyloxy)-6-(2,2-dichloropropyloxy)pyrimidine (the present compound (37)).

reactant | sodium hydride | 0.04 g | [H-].[Na+]
reactant | 2-butyn-1-ol | 0.07 g | C(C#CC)O | C4H6O
reactant | 4-chloro-6-(2,2-dichloropropyloxy)pyrimidine | 0.18 g | ClC1=NC=NC(=C1)OCC(C)(Cl)Cl | C7H7Cl3N2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
product | 4-(2-butynyloxy)-6-(2,2-dichloropropyloxy)pyrimidine | 0.08 g | C(C#CC)OC1=NC=NC(=C1)OCC(C)(Cl)Cl | C11H12Cl2N2O2
